US06511978B1
16-1) Preparation of 3-(2-chlorobenzyloxy)propanol
3.7 g(49 mmol) of 1,3-propandiol was dissolved in 50 ml of dimethylformamide and cooled to 0° C. 2 g(50 mmol) of 60% sodium hydride dispersed in mineral oil was added slowly. After the mixture was stirred for 10 minutes, 10 g(49 mmol) of 2-chlorobenzyl-bromide dissolved in 10 ml of dimethyformamide was added slowly. After stirring for one hour at room temperature, dimethylformamide was removed under reduced pressure, 100 ml of ethylacetate was added to the residue and the organic layer was washed with saturated sodium chloride solution (100 ml×3). The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to column chromatography(eluent: n-hexane/ethylacetate=4/1, v/v) to give 3.52 g(Yield 35.8%) of the title compound.

reactant | 1,3-propandiol | 49 mmol, 3.7 g | C(CCO)O | C3H8O2
reactant | sodium hydride | 50 mmol, 2 g | [H-].[Na+]
reactant | 2-chlorobenzyl-bromide | 49 mmol, 10 g | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
reactant | n-hexane ethylacetate | CCCCCC.C(C)OC(C)=O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethyformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(2-chlorobenzyloxy)propanol | 3.52 g, Yield 35.8% | ClC1=C(COCCCO)C=CC=C1 | C10H13ClO2
